US08431563B2
A 100-mL pressure vessel was charged with 2-(4-(4-((6-chloro-5-fluoro-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.725 g, 1.389 mmol), 5 mL of EtOH, and concentrated ammonium hydroxide (10 mL, 257 mmol). The vessel was sealed and the mixture was heated to 125° C. for 18 h. After that time, the mixture was diluted with water and extracted with CH2Cl2 (3×100 mL). The combined extracts were dried (MgSO4), filtered and concentrated. The residue was purified by column chromatography on silica gel (0 to 70% EtOAc in hexanes) and to give 2-(4-(4-((6-amino-5-fluoro-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.375 g) as a white solid. 1H NMR (400 MHz, CD3OD) δ=8.18 (d, J=1.4 Hz, 1H), 7.62 (dd, J=1.9, 10.5 Hz, 1H), 7.56 (d, J=8.8 Hz, 2H), 7.01 (d, J=9.0 Hz, 2H), 3.35-3.29 (m, 4H), 3.19-3.14 (m, 4H). m/z (ESI, +ve ion) 503.1 (M+H)+. GK-GKRP IC50 (Binding)=0.163 μM; GK-GKRP EC50 (LC MS/MS-2)=0.299 μM.

reactant | 2-(4-(4-((6-chloro-5-fluoro-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 1.389 mmol, 0.725 g | ClC1=C(C=C(C=N1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C18H15ClF7N3O3S
reactant | EtOH | 5 mL | CCO | C2H6O
reactant | ammonium hydroxide | 257 mmol, 10 mL | [OH-].[NH4+]
solvent | water | O | H2O
product | 2-(4-(4-((6-amino-5-fluoro-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.375 g | NC1=C(C=C(C=N1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C18H17F7N4O3S
